US05262420
Preparation of 1-phenyl-4-(3-methyl-4-pyridyl)-butane
1.62 g (15.1 mmol) of 3,4-dimethylpyridine and 3.0 g (15.1 mmol) of 1-bromo-3-phenylpropane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 3.3 g of the desired compound (yield: 97.2%). The resulting compound was identified as 1-phenyl-4-(3-methyl-4-pyridyl)-butane (hereinafter referred to as compound 41) by the following analytical results.

reactant | 3,4-dimethylpyridine | 15.1 mmol, 1.62 g | CC=1C=NC=CC1C | C7H9N
reactant | 1-bromo-3-phenylpropane | 15.1 mmol, 3.0 g | BrCCCC1=CC=CC=C1 | C9H11Br
product | 1-phenyl-4-(3-methyl-4-pyridyl)-butane | 3.3 g, yield: 97.2% | C1(=CC=CC=C1)CCCCC1=C(C=NC=C1)C | C16H19N
